US08497281B2
4-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-benzamide
The title compound is prepared from terephthalamic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1. Yield: 58% of theory; LC (method 1): tR=3.16 min; Mass spectrum (ESI+): m/z=335 [M+H]+.

reactant | terephthalamic acid | C(C1=CC=C(C(=O)N)C=C1)(=O)O | C8H7NO3
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
product | 4-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-benzamide | Yield: 58% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C3=CC=C(C(=O)N)C=C3 | C21H22N2O2
